US07671066B2
Preparation of 3-benzyloxy-4-methoxy-benzoic acid (Z)-1-(3-cyclopentyloxy-4-methoxy-phenyl)-2-(3,5-dichloro-pyridin-4-yl)vinyl ester (CHF 5528)
The compound was obtained starting from 3-benzyloxy-4-methoxy-benzoyl chloride and 1-(3-cyclopentyloxy-4-methoxy-phenyl)-2-(3,5-dichloro -pyridin-4-yl)-ethanone, following the procedure of Example 7.

reactant | 3-benzyloxy-4-methoxy-benzoyl chloride | C(C1=CC=CC=C1)OC=1C=C(C(=O)Cl)C=CC1OC | C15H13ClO3
reactant | 1-(3-cyclopentyloxy-4-methoxy-phenyl)-2-(3,5-dichloro -pyridin-4-yl)-ethanone | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC1=C(C=NC=C1Cl)Cl)=O | C19H19Cl2NO3
product | 3-benzyloxy-4-methoxy-benzoic acid (Z)-1-(3-cyclopentyloxy-4-methoxy-phenyl)-2-(3,5-dichloro-pyridin-4-yl)vinyl ester | C1(CCCC1)OC=1C=C(C=CC1OC)/C(=C/C1=C(C=NC=C1Cl)Cl)/OC(C1=CC(=C(C=C1)OC)OCC1=CC=CC=C1)=O | C34H31Cl2NO6
